US05981550
Step 3E 2-(3.5-Dimethylphenyl)-3-{2-[(5-pyridin-3-yl-thiophen-2-ylmethyl)amino]-ethyl}-1H-indole-5-carboxylic acid diisopropylamide
To a solution of 3-(2-aminoethyl)-2-(3,5-dimethylphenyl)-1H-indole-5-carboxylic acid diisopropylamide in a mixture of dry chloroform and methanol at 0° C. is added magnesium sulfate followed by 5-pyridin-3-yl-thiophene-2-carbaldehyde and the mixture stirred at low temperature. After 40 minutes, acetic acid is added followed by a solution of sodium cyanoborohydride and the mixture allowed to warm to room temperature. After completion, the reaction is quenched by the addition of saturated aqueous sodium bicarbonate, extracted with methylene chloride and the combined organics washed sequentially with water and brine. Purification of the concentrate by preparative tlc on silica gel gives the title compound.

reactant | 3-(2-aminoethyl)-2-(3,5-dimethylphenyl)-1H-indole-5-carboxylic acid diisopropylamide | C(C)(C)N(C(=O)C=1C=C2C(=C(NC2=CC1)C1=CC(=CC(=C1)C)C)CCN)C(C)C | C25H33N3O
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | 5-pyridin-3-yl-thiophene-2-carbaldehyde | N1=CC(=CC=C1)C1=CC=C(S1)C=O | C10H7NOS
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-(3.5-Dimethylphenyl)-3-{2-[(5-pyridin-3-yl-thiophen-2-ylmethyl)amino]-ethyl}-1H-indole-5-carboxylic acid diisopropylamide | C(C)(C)N(C(=O)C=1C=C2C(=C(NC2=CC1)C1=CC(=CC(=C1)C)C)CCNCC=1SC(=CC1)C=1C=NC=CC1)C(C)C | C35H40N4OS
